reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:11])[C:4]([H:13])([H:14])[C@@:5]1([O:6][O:3][H:12])[N:7]([H:15])[H:16])([H:8])([H:9])[H:10],126.05961420883699
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:2](=[O+:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11],90.2984347389284
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:18])([H:15])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:16][H:19],93.7593408875399
[C:1]([C:2]([N:3]([H:10])[H:11])=[C:4]=[N:5][H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],61.840939934846006
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]1[O:3][O:6][C:5]([H:7])([H:11])[N:4]1[H:10])([H:8])[H:9],140.517003125838
[C:1]([C:2](/[C:3](=[C:5](/[C:4]([H:13])([H:14])[H:15])[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],35.932549077442204
[C:1]([N:5]([H:11])[H:12])([H:6])([H:7])[H:8].[C:2](=[C:3]=[O:4])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[N:5]([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8],73.49941942020308
[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[C@:6]([C:7][H:15])([H:14])[C:4]1=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[C:6]#[C:7][H:15])[H:11])([H:8])([H:9])[H:10],23.800477920732796
[C:1](=[O:2])([H:9])[H:10].[C:3](=[N:4][H:11])=[N:5][C:6](=[O:7])[H:13].[H:8][H:12]>>[C:1]([O:2]/[C:3](=[N:4]\[H:11])[N:5]([C:6](=[O:7])[H:13])[H:12])([H:8])([H:9])[H:10],38.5006272369902
[C:1]([C:2][H:9])([H:6])([H:7])[H:8].[C:3]1([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15]>>[C:1]([C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1([H:14])[H:15])([H:6])([H:7])[H:8],14.688648279153313
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O:4][C:5]([H:12])([H:13])[C@@:6]12[H:14]>>[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[C:3]([H:10])([H:11])[O+:4]=[C-:5][C@@:6]12[H:14].[H:12][H:13],82.7404447518482
[C:1]1([H:8])([H:10])[C@:2]([O:3][C:4](=[O:5])[H:12])([H:11])[C:6]1=[C:7]([H:9])[H:13]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],94.24334236543118
[O:1]([C:2]([O:5][C:4](=[C:3]([H:11])[H:12])[C:6]([O:7][H:15])([H:13])[H:14])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],58.22692593294429
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([N:3]([H:10])[H:11])([N+:5]#[C-:4])[H:9])([H:6])([H:7])[H:8],48.4495513915569
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4]([H:12])[n:5][c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],45.665249875342
[C-:2]#[O+:3].[C:1]([O:7]/[C:6](=[C:4](\[O:5][H:12])[H:11])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],69.3284918776255
[N:1](=[C:2](\[O:6][C:5]([C:4](=[C:3])[H:9])([H:10])[H:11])[H:8])\[H:7]>>[N:1](=[C:2]1/[C:3]([H:8])=[C:4]([H:9])[C:5]([H:10])([H:11])[O:6]1)\[H:7],6.829981547279203
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:3]#[N:4])[H:11])([H:8])[H:9].[C:5](=[O:6])([C:7]([H:12])([H:13])[H:14])[H:10],81.9817583759373
[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])=[C:6]([O:7][H:13])[H:19])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([C:5]([H:16])([H:17])[H:18])([H:14])[H:15])([C:6](=[O:7])[H:19])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.08843858327759
[O:1]=[C:2]1[C:3]([H:7])([H:8])[C@@:4]2([H:9])[O:5][C@@:6]12[H:10]>>[O:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[C@@:6]1([H:10])[C-:4]=[O+:5]1,65.5958158412589
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]([C:3]([H:10])([H:11])[H:12])(=[C:4]([H:14])[H:15])[C:5]#[N:6],117.734940207114
[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8]>>[C-:4]#[O+:5].[N:1]([C:2](=[O:3])[C:6](=[O:7])[H:10])([H:8])[H:9],47.742843741409594
[C:1]([C@:2]1([H:11])[C:3]([H:12])([H:13])[N:4]([H:14])[C@:5]1([O:6][H:10])[H:15])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],69.9740138390773
[C:1]([C:2](=[O:3])/[N:4]=[C:5](/[O:6][H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],29.2952593727564
